US06262074B1
4-[(8-Bromoquinolin-5-yl)carbonyl]-1-ethyl-5-hydroxypyrazole (compound 5.01)
1.00 g of 8-bromoquinoline-5-carboxylic acid, 0.44 g of 1-ethyl-5-hydroxypyrazole and 0.80 g of dicyclohexylcarbodiimide were stirred in 15 ml of acetonitrile at room temperature. After the addition of 0.2 ml of acetone cyanohydrin and 0.60 g of triethylamine, stirring was continued for 1.5 hours and the mixture was then poured into aqueous sodium carbonate solution. The alkaline phase was washed with ethyl acetate and diethyl ether and then acidified. The precipitate was filtered off under suction and the aqueous phase was extracted with ethyl acetate. This organic phase was dried and concentrated. The residue and the precipitate were combined.

reactant | 8-bromoquinoline-5-carboxylic acid | 1.00 g | BrC1=CC=C(C=2C=CC=NC12)C(=O)O | C10H6BrNO2
reactant | 1-ethyl-5-hydroxypyrazole | 0.44 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | dicyclohexylcarbodiimide | 0.80 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetone cyanohydrin | 0.2 ml | CC(C#N)(O)C | C4H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.60 g | C(C)N(CC)CC | C6H15N
product | 4-[(8-Bromoquinolin-5-yl)carbonyl]-1-ethyl-5-hydroxypyrazole | BrC=1C=CC(=C2C=CC=NC12)C(=O)C=1C=NN(C1O)CC | C15H12BrN3O2
